US07786132B2
(iii) 1-(2-Aminoethyl)-1,3-dihydroimidazol-2-one
[2-(5-Hydroxy-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester (7.85 g, 32 mmol) was suspended in DCM (250 mL) and a solution of TFA (100 mL) in DCM (250 mL) was added over 10 min to the stirred suspension, which dissolved. The solution was stirred for 16 h, concentrated, and azeotroped with MeCN. The resulting TFA salt of the product was dissolved in MeOH (10 mL) and purified on 50 g of SCX resin, washing with MeOH and eluting off with 2 M NH3 in MeOH. Concentration gave the product as a pale yellow oil (3.66 g, 90%). MS (M+H)+ 128.

reactant | [2-(5-Hydroxy-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 32 mmol, 7.85 g | C(C)(C)(C)OC(NCCN1C(NCC1O)=O)=O | C10H19N3O4
reactant | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Aminoethyl)-1,3-dihydroimidazol-2-one | 3.66 g, 90% | NCCN1C(NC=C1)=O | C5H9N3O
